US09169259B2
A mixture of 3-(8-(6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (25 mg, 0.106 mmol), 0.5 M ammonium in dioxane solution (2 mL), EDCI (43 mg, 0.22 mmol), HOBT (30 mg, 0.22 mmol), Et3N (23 mg, 0.22 mmol) and dichloromethane (2 mL) was stirred at room temperature for 16 h. The solution was concentrated in vacuo and purified by prep-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 20% acetonitrile/80% water (0.1% TFA, v/v) initially, proceeding to 50% acetonitrile/50% water (0.1% TFA, v/v) in a linear fashion over 9 min) to give 3-(8-(6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamide (6 mg, 24%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 9.79 (s, 1H), 8.91 (s, 1H), 8.47 (s, 1H), 8.31 (s, 1H), 8.16-8.02 (m, 3H), 7.79 (s, 1H), 7.63 (t, 1H, J=7.6 Hz), 7.52-7.47 (m, 2H), 6.72 (d, 1H, J=7.8 Hz), 6.11 (d, 1H, J=8.4 Hz), 3.72-3.66 (m, 1H), 3.52-3.40 (m, 2H), 3.12 (t, 1H, J=10.0 Hz), 2.13-1.94 (m, 2H), 1.78-1.74 (m, 1H), 0.86 (s, 9H). LC-MS: [M+H]+, 456, tR=1.72 min, HPLC: 99.11% at 214 nm, 99.64% at 254 nm, tR=4.22 min.

reactant | 3-(8-(6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 0.106 mmol, 25 mg | C(C)(C)(C)C1CN(CC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2 | C26H28N6O2
reactant | ammonium | 0.5 M | [NH4+]
reactant | EDCI | 0.22 mmol, 43 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.22 mmol, 30 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 0.22 mmol, 23 mg | CCN(CC)CC | C6H15N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-(8-(6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamide | 6 mg, 24% | C(C)(C)(C)C1CN(CC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)N)C=CC1)C=CN2 | C26H29N7O
